US05527819
Preparation of N-(3-hydroxybenzyl)-3-phenylsulfonyl-5-chloroindole-2-carboxamide
To a saturated solution of N-(3-methoxybenzyl) 3-phenylsulfonyl-5-chloroindole-2-carboxamide (1.37 g, 3.0 mmol) in dry methylene chloride (140 mL) under an inert atmosphere was added boron tribromide in hexane (1M, 10 mL, 10 mmol). After stirring for 12-20 hours, the reaction was neutralized by addition of aq. NaHCO3. After two hours, the solution was made weakly acidic by addition of dilute HC1. The precipitated product was collected by filtration and then the aqueous filtrate extracted with ethyl acetate. The organic layer was dried (Na2SO4), filtered, and the solvent evaporated. The residue was triturated with diethyl ether to give additional product. The solids were combined and crystallized from hot methanol/ethyl acetate to give analytically pure product, mp 73.5°-274.5° C.

reactant | N-(3-methoxybenzyl) 3-phenylsulfonyl-5-chloroindole-2-carboxamide | 3.0 mmol, 1.37 g | COC=1C=C(CNC(=O)C=2NC3=CC=C(C=C3C2S(=O)(=O)C2=CC=CC=C2)Cl)C=CC1 | C23H19ClN2O4S
reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | hexane | 10 mmol, 1M, 10 mL | CCCCCC | C6H14
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | methylene chloride | 140 mL | C(Cl)Cl | CH2Cl2
product | N-(3-hydroxybenzyl)-3-phenylsulfonyl-5-chloroindole-2-carboxamide | OC=1C=C(CNC(=O)C=2NC3=CC=C(C=C3C2S(=O)(=O)C2=CC=CC=C2)Cl)C=CC1 | C22H17ClN2O4S
